US06153608
Hexahydro-5-methyl-1-[(4-methyl-5-isoquinolinyl)sulfonyl]-1H-1,4-diazepine dihydrochloride
Using 0.29 g of hexahydro-5-methyl-1H-1,4-diazepine synthesized in accordance with U.S. Pat. No. 3,040,029 and 0.48 g of 5-chlorosulfonyl-4-methylisoquinoline, the procedure of Example 1 was otherwise repeated to provide 0.3 g of the objective compound (white crystals).

reactant | hexahydro-5-methyl-1H-1,4-diazepine | 0.29 g | CC1NCCNCC1 | C6H14N2
reactant | 5-chlorosulfonyl-4-methylisoquinoline | 0.48 g | ClS(=O)(=O)C1=C2C(=CN=CC2=CC=C1)C | C10H8ClNO2S
product | Hexahydro-5-methyl-1-[(4-methyl-5-isoquinolinyl)sulfonyl]-1H-1,4-diazepine dihydrochloride | 0.3 g | Cl.Cl.CC1NCCN(CC1)S(=O)(=O)C1=C2C(=CN=CC2=CC=C1)C | InChI=1S/C16H21N3O2S.2ClH/c1-12-10-17-11-14-4-3-5-15(16(12)14)22(20,21)19-8-6-13(2)18-7-9-19;;/h3-5,10-11,13,18H,6-9H2,1-2H3;2*1H
